US07049438B2
Using analogous procedures to those described in Note [33] immediately above, 1-(tert-butoxycarbonyl)-L-proline was reacted with morpholine to give (2S)-1-(tert-butoxycarbonyl)-2-morpholinocarbonylpyrrolidine which was deprotected and reacted with 2-bromoethanol. There was thus obtained the required starting material; NMR Spectrum: (CDCl3) 1.7–2.0 (m, 4H), 2.1–2.2 (m, 1H), 2.4–2.5 (m, 1H), 2.6–2.7 (m, 1H), 2.8–2.9 (m, 1H), 3.3–3.4 (m, 2H), 3.4–3.8 (m, 10H); Mass Spectrum: M+H+ 229.

reactant | 1-(tert-butoxycarbonyl)-L-proline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (2S)-1-(tert-butoxycarbonyl)-2-morpholinocarbonylpyrrolidine | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)N1CCOCC1 | C14H24N2O4
